US09353108B2
A) 3-Ethoxy-5-iodo-4-(methoxymethoxy)benzaldehyde
Chloro(methoxy)methane (6.27 mL) was added to a mixture of 3-ethoxy-4-hydroxy-5-iodobenzaldehyde (16.1 g), potassium carbonate (15.2 g), and DMF (120 mL), and the resultant mixture was stirred at room temperature for 3 hours. Water was added to the reaction mixture, followed by extraction with ethyl acetate. The obtained organic layer was washed with water and saturated saline and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (12.1 g).

reactant | Chloro(methoxy)methane | 6.27 mL | ClCOC | C2H5ClO
reactant | 3-ethoxy-4-hydroxy-5-iodobenzaldehyde | 16.1 g | C(C)OC=1C=C(C=O)C=C(C1O)I | C9H9IO3
reactant | potassium carbonate | 15.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 120 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 3-Ethoxy-5-iodo-4-(methoxymethoxy)benzaldehyde | 12.1 g | C(C)OC=1C=C(C=O)C=C(C1OCOC)I | C11H13IO4
